US08207164B2
g) 5-Difluoromethyl-5-(2-fluoro-phenyl)-2,2-dimethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine
5-Difluoromethyl-5-(2-fluoro-phenyl)-2,2-dimethyl-morpholine-3-thione (2.50 g, 8.64 mmol) was dissolved in NH3 solution 7 mol/L in methanol (40.7 mL, 285 mmol). The sealed reaction vessel was heated to 80° C. for 7 h, then the temperature was lowered to 70° C. and the reaction mixture was stirred over night. The reaction mixture was evaporated and purified on a silica gel column by eluting with CH2Cl2/1-4% EtOH:NH3 9:1 to give 2.09 g of the title compound as an off-white solid.

reactant | 5-Difluoromethyl-5-(2-fluoro-phenyl)-2,2-dimethyl-morpholine-3-thione | 8.64 mmol, 2.50 g | FC(C1(COC(C(N1)=S)(C)C)C1=C(C=CC=C1)F)F | C13H14F3NOS
reactant | methanol | 285 mmol, 40.7 mL | CO | CH4O
reactant | NH3 | 7 mol/L | N | H3N
product | 5-Difluoromethyl-5-(2-fluoro-phenyl)-2,2-dimethyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 2.09 g | FC(C1(N=C(C(OC1)(C)C)N)C1=C(C=CC=C1)F)F | C13H15F3N2O
